US08877774B2
Step 6. (R)-Quinuclidin-3-yl(3-(9-oxononyloxy)phenyl)(phenyl)-methylcarbamate
To a stirred solution of (R)-quinuclidin-3-yl(3-(8-(1,3-dioxolan-2-yl)octyloxy)phenyl)(phenyl)methylcarbamate (0.66 g, 1.23 mmol) in THF (10 mL), 2M hydrochloric acid was added (20 mL). The reaction mixture was stirred at RT for 3 hours. To the reaction mixture was added 10% aqueous potassium carbonate, and the mixture extracted with DCM (×3). The combined organic extracts were washed poured through a hydrophobic cartridge, and concentrated under reduced pressure to afford the title compound (0.64 g, quantitative yield). The material was used directly in the next step with no further purification.

reactant | (R)-quinuclidin-3-yl(3-(8-(1,3-dioxolan-2-yl)octyloxy)phenyl)(phenyl)methylcarbamate | 1.23 mmol, 0.66 g | N12C[C@@H](C(CC1)CC2)OC(N(CC2=CC=CC=C2)C2=CC(=CC=C2)OCCCCCCCCC2OCCO2)=O | C32H44N2O5
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | THF | 10 mL | C1CCOC1 | C4H8O
solvent | hydrochloric acid | 2M | Cl | ClH
product | (R)-Quinuclidin-3-yl(3-(9-oxononyloxy)phenyl)(phenyl)-methylcarbamate | 0.64 g, quantitative yield | N12C[C@@H](C(CC1)CC2)OC(N(CC2=CC(=CC=C2)OCCCCCCCCC=O)C2=CC=CC=C2)=O | C30H40N2O4
